US08895571B2
Step E: 5-(4-chloro-1-methyl-1H-pyrazol-5-yl)-2-[(1S)-1-(3-fluorobenzyl)-2-(methylamino)ethyl]isoindolin-1-one
A mixture of (2S)-2-[5-(4-chloro-1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]-3-(3-fluorophenyl)propanal (40.0 mg, 0.100 mmol), methylamine (20.3 μL, 0.151 mmol) and sodium triacetoxyborohydride (42.6 mg, 0.201 mmol) in tetrahydrofuran (1 mL) was stirred at room temperature overnight. Direct purification on prep.—HPLC (pH=10) gave the desired product as white solid. LC-MS found: 413.1 (M+H)+.

reactant | (2S)-2-[5-(4-chloro-1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]-3-(3-fluorophenyl)propanal | 0.100 mmol, 40.0 mg | ClC=1C=NN(C1C=1C=C2CN(C(C2=CC1)=O)[C@H](C=O)CC1=CC(=CC=C1)F)C | C21H17ClFN3O2
reactant | methylamine | 0.151 mmol, 20.3 μL | CN | CH5N
reactant | sodium triacetoxyborohydride | 0.201 mmol, 42.6 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 5-(4-chloro-1-methyl-1H-pyrazol-5-yl)-2-[(1S)-1-(3-fluorobenzyl)-2-(methylamino)ethyl]isoindolin-1-one | ClC=1C=NN(C1C=1C=C2CN(C(C2=CC1)=O)[C@H](CNC)CC1=CC(=CC=C1)F)C | C22H22ClFN4O
